US05059597
e) 2,8-Dimethyl-3-oxa-2,7-diazabicyclo[3.3.0]octane
9.2 g (42.9 mmol) of ethyl 2,8-dimethyl-3-oxa-2,7-diazabicyclo[3.3.0]octane-7-carboxylate are heated under reflux with 23.5 g of Ba(OH)2.8H2O in 235 ml of water overnight. The BaCO3 is filtered off with suction, K2CO3 is added to the filtrate and the solid is filtered off with suction again. The filtrate is extracted ten times with 50 ml of CHCl3 each time, the extracts are dried over K2CO3 and concentrated and the residue is distilled.

reactant | ethyl 2,8-dimethyl-3-oxa-2,7-diazabicyclo[3.3.0]octane-7-carboxylate | 42.9 mmol, 9.2 g | CN1C2C(N(CC2CO1)C(=O)OCC)C | C10H18N2O3
solvent | water | 235 ml | O | H2O
product | 2,8-Dimethyl-3-oxa-2,7-diazabicyclo[3.3.0]octane | CN1C2C(NCC2CO1)C | C7H14N2O
